US06008219
A mixture of 6-bromo-2-tetralone (8.80 g, 39 mmol), trimethyl orthoformate (17.2 ml, 157 mmol), ethylene glycol (16.2 ml, 290 mmol) and p-toluenesulfonic acid (0.07 g, 0.37 mmol) in dry dichloromethane (200 ml) was stirred at room temperature for 18 h, then partitioned between saturated aqueous NaHCO3 (100 ml) and dichloromethane (2×50 ml). The combined organic extracts were dried (Na2SO4) then evaporated in vacuo to give an oil. Column chromatography on silica with 0-10% diethyl ether-hexane gradient elution gave 6-bromo-2-tetralone ethylene ketal as a yellow oil (8.84 g, 84%).

reactant | 6-bromo-2-tetralone | 39 mmol, 8.80 g | BrC=1C=C2CCC(CC2=CC1)=O | C10H9BrO
reactant | trimethyl orthoformate | 157 mmol, 17.2 ml | C(OC)(OC)OC | C4H10O3
reactant | ethylene glycol | 290 mmol, 16.2 ml | C(CO)O | C2H6O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | p-toluenesulfonic acid | 0.37 mmol, 0.07 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 6-bromo-2-tetralone ethylene ketal | 8.84 g, 84% | C1COC2(CC3=CC=C(C=C3CC2)Br)O1 | C12H13BrO2
